US04766125
16.8 Parts of concentrated sulfuric acid were stirred and cooled to 0° C. and there were added portionwise 4.2 parts of 2-chloro-N-(2,6-dichloro-4-cyanophenyl)acetamide. Upon completion, stirring was continued for 3 hours in an ice-bath. The reaction mixture was allowed to stand overnight at room temperature and poured onto ice-water. The precipitated product was filtered off, washed with water, dried and boiled in acetonitrile. The product was filtered off and dried, yielding 2.7 parts of 3,5-dichloro-4-[(2-chloroacetyl)amino]benzamide; mp. +260° C. (intermediate 71).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-N-(2,6-dichloro-4-cyanophenyl)acetamide | ClCC(=O)NC1=C(C=C(C=C1Cl)C#N)Cl | C9H5Cl3N2O
product | 3,5-dichloro-4-[(2-chloroacetyl)amino]benzamide | ClC=1C=C(C(=O)N)C=C(C1NC(CCl)=O)Cl | C9H7Cl3N2O2
